US07238808B2
5-[7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyrazin-2-ylamine
The title compound was prepared from 7-difluoromethyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.2) (169 mg, 0.5 mmol) and commercially available 2-amino-5-bromo-pyrazine (87 mg, 0.5 mmol) according to general procedure II. Obtained as an orange solid (53 mg, 25%). MS (ISP) 431.2 [(M+H)+]; mp 233° C.

reactant | 7-difluoromethyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 0.5 mmol, 169 mg | FC(C1=CC(=NC=2N1N=CC2C#C)C2=CC=C(C=C2)C(F)(F)F)F | C16H8F5N3
reactant | 2-amino-5-bromo-pyrazine | 0.5 mmol, 87 mg | NC1=NC=C(N=C1)Br | C4H4BrN3
product | 5-[7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyrazin-2-ylamine | FC(C1=CC(=NC=2N1N=CC2C#CC=2N=CC(=NC2)N)C2=CC=C(C=C2)C(F)(F)F)F | C20H11F5N6
